US07612114B2
(R)-6-{2-{[4-(2-Cyclohexylaminoethyl)benzyl]ethylamino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from pivalic acid (R)-6-{2-[(4-carboxymethylbenzyl)ethylamino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester (31 mg) and cyclohexylamine (9.3 mg) according to an analogous synthetic method to Example 806, the title compound (4.6 mg) was obtained.

reactant | pivalic acid (R)-6-{2-[(4-carboxymethylbenzyl)ethylamino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester | 31 mg | C(=O)(O)CC1=CC=C(CCCNC2=C(C=CC(=C2)OC)[C@H]2CC=3C=CC(=CC3CC2)OC(C(C)(C)C)=O)C=C1 | C33H39NO5
reactant | cyclohexylamine | 9.3 mg | C1(CCCCC1)N | C6H13N
product | (R)-6-{2-{[4-(2-Cyclohexylaminoethyl)benzyl]ethylamino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 4.6 mg | C1(CCCCC1)NCCC1=CC=C(CCCNC2=C(C=CC(=C2)OC)[C@H]2CC=3C=CC(=CC3CC2)O)C=C1 | C34H44N2O2
